US06518257B1
(ii) Production of N-(2-{4-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]phenyl}-4-pyridyl)acetamide
A mixture of 1-[4-(4-amino-2-pyridyl)phenyl]-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol (1.40 g), acetic anhydride (0.46 ml), triethylamine (0.71 ml) and p-dimethylaminopyridine (20 mg) was stirred in THF (20 ml) at 60° C. for 16 h. The solvent was evaporated and ethyl acetate and water were added to the residue for partitioning. The organic layer was washed with aqueous sodium hydrogen carbonate and brine, dried (magnesium sulfate) and concentrated under reduced pressure. The residue was dissolved in a mixture of acetonitrile (10 ml)—water (10 ml) and tetrabutylammonium bromide (13 mg) was added. The mixture was stirred at room temperature for 10 h. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The organic layer was combined, and the mixture was dried (magnesium sulfate) and concentrated under reduced pressure. The residue was purified by silica gel chomatography (eluent; hexane:ethyl acetate=2:1). Recrystallization from ethyl acetate gave the title compound (630 mg) as colorless powder crystals.

reactant | 1-[4-(4-amino-2-pyridyl)phenyl]-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol | 1.40 g | NC1=CC(=NC=C1)C1=CC=C(C=C1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C37H34N4O
reactant | acetic anhydride | 0.46 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 0.71 ml | C(C)N(CC)CC | C6H15N
catalyst | p-dimethylaminopyridine | 20 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-(2-{4-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]phenyl}-4-pyridyl)acetamide | 630 mg | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=NC=CC(=C1)NC(C)=O | C39H36N4O2
